US07566736B2
1.9 cm3 (1.9 mmol) of a 1M aqueous sodium hydroxide solution are added, at a temperature in the region of 20° C., to 0.5 g (1.9 mmol) of 2-nitro-4-trifluoromethylbenzyl acetate in solution in 50 cm3 of methanol. After stirring for 2 hours at a temperature in the region of 20° C., 20 cm3 of a saturated aqueous sodium phosphate solution are added and the mixture is then extracted with 3 times 50 cm3 of dichloromethane. The organic phases are combined, washed with 50 cm3 of a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered, and concentrated to dryness under reduced pressure (2.7 kPa), to give 0.424 g of (2-nitro-4-trifluoromethylphenyl)methanol in the form of an oil;

reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | 2-nitro-4-trifluoromethylbenzyl acetate | 1.9 mmol, 0.5 g | C(C)(=O)OCC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C10H8F3NO4
reactant | sodium phosphate | 20 cm3 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | methanol | 50 cm3 | CO | CH4O
product | (2-nitro-4-trifluoromethylphenyl)methanol | 0.424 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)CO | C8H6F3NO3
